US08026271B2
Synthesis of N-(3-methylisothiazol-5-yl)-2-[1-(3-methylisoxazol-5-ylmethyl)-1H-indol-3-yl]-2-oxoacetamide (“BPR0C261”)
A solution of 5-(1H-1-indolylmethyl)-3-methylisoxazole (212 mg, 1.0 mmol) in 10 mL diethyl ether was added to oxalyl chloride (254 mg, 2.0 mmol) dropwise at 0° C. The reaction mixture was stirred at 0° C. for 3 hours and then the reaction solvent was evaporated. The residue was dissolved in 5 mL tetrahydrofuran and then the 3-methyl-5-isothiazolamine (114 mg, 1.0 mmol) and triethylamine (1 mL) in 10 mL tetrahydrofuran was added dropwise. The mixture was stirred for 10 hours and then 1 N NaOH (4 mL) was added to the reaction flask dropwise. The mixture was extracted three times with a total of 60 mL of tetrahydrofuran, the organic phase was dried using anhydrous magnesium sulfate and filtered, and the filtrate was concentrated in vacuum. The residue was crystallized from methanol. Yield: 0.27 g, 71%.

reactant | 5-(1H-1-indolylmethyl)-3-methylisoxazole | 1.0 mmol, 212 mg | N1(C=CC2=CC=CC=C12)CC1=CC(=NO1)C | C13H12N2O
reactant | oxalyl chloride | 2.0 mmol, 254 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-methyl-5-isothiazolamine | 1.0 mmol, 114 mg | CC1=NSC(=C1)N | C4H6N2S
reactant | NaOH | 1 N, 4 mL | [OH-].[Na+]
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
product | N-(3-methylisothiazol-5-yl)-2-[1-(3-methylisoxazol-5-ylmethyl)-1H-indol-3-yl]-2-oxoacetamide | CC1=NSC(=C1)NC(C(=O)C1=CN(C2=CC=CC=C12)CC1=CC(=NO1)C)=O | C19H16N4O3S
